US06599917B1
c) 3-[2-Benzyl-6-(2-hydroxyphenyl)-3-pyridyl]ethynyl-3-quinuclidinol
A mixture of 67.0 mg of 2-benzyl-6-(2-hydroxyphenyl)-3-pyridyl trifluoromethane sulfonate, 24.7 mg of 3-ethynyl-3-quinuclidinol, 19.0 mg of tetrakis(triphenylphosphine)palladium(0), 0.1 mg of cuprous iodide, 68.6 μl of triethylamine and 1.5 ml of N,N-dimethylformamide was heated under stirring at 100° C. for 2 hours in a nitrogen atmosphere. NH-silica gel was added to the reaction solution, and the solvent was removed. The residue was subjected to NH-silica gel column chromatography using 3% methanol/ethyl acetate, to give 56.8 mg of the target compound.

reactant | 2-benzyl-6-(2-hydroxyphenyl)-3-pyridyl trifluoromethane sulfonate | 67.0 mg | FC(S(=O)(=O)OC=1C(=NC(=CC1)C1=C(C=CC=C1)O)CC1=CC=CC=C1)(F)F | C19H14F3NO4S
reactant | 3-ethynyl-3-quinuclidinol | 24.7 mg | C(#C)C1(CN2CCC1CC2)O | C9H13NO
reactant | triethylamine | 68.6 μl | C(C)N(CC)CC | C6H15N
catalyst | tetrakis(triphenylphosphine)palladium(0) | 19.0 mg | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
solvent | N,N-dimethylformamide | 1.5 ml | CN(C=O)C | C3H7NO
product | 3-[2-Benzyl-6-(2-hydroxyphenyl)-3-pyridyl]ethynyl-3-quinuclidinol | 56.8 mg | C(C1=CC=CC=C1)C1=NC(=CC=C1C#CC1(CN2CCC1CC2)O)C2=C(C=CC=C2)O | C27H26N2O2
